US07648985B2
(i) tert-butyl{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]ethyl}carbamate
Potassium carbonate (3.82 g, 27.6 mmol) was added to a mixture of tert-butyl [2-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]carbamate (5.00 g, 18.4 mmol) and 4-(bromomethyl)benzonitrile (3.61 g, 18.4 mmol) in acetonitrile (150 mL). The mixture was heated to reflux over night, cooled to room temperature, filtered and evaporated. The residue was dissolved in dichloromethane (100 mL), washed with water and dried over MgSO4. Purification by preparative HPLC gave 7.04 g (78%) of the sub.title compound as a salt with one equivalent of acetic acid and one equivalent of formic acid.

reactant | Potassium carbonate | 27.6 mmol, 3.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl [2-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]carbamate | 18.4 mmol, 5.00 g | C12CN(CC(CNC1)O2)CCNC(OC(C)(C)C)=O | C13H25N3O3
reactant | 4-(bromomethyl)benzonitrile | 18.4 mmol, 3.61 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | acetic acid | one equivalent | C(C)(=O)O | C2H4O2
reactant | formic acid | one equivalent | C(=O)O | CH2O2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | tert-butyl{2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]ethyl}carbamate | 7.04 g, 78% | C(C)(C)(C)OC(NCCN1CC2CN(CC(C1)O2)CC2=CC=C(C=C2)C#N)=O | C21H30N4O3
